US09290517B2
(3R,3aS,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]spiro[3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6,5′-imidazolidine]-2′,4′-dione
A mixture of (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (91 mg, 0.203 mmol), ammonium carbonate (39.0 mg, 0.406 mmol) and potassium cyanide (14.6 mg, 0.224 mmol) in methanol (0.4 ml) was stirred at room temperature for 22 hours. The mixture was placed in a 40 degree oil bath for an additional 23 hours. Then the reaction mixture was partitioned between ethyl acetate (30 mL) and water (20 mL), washed with brine (1×5 mL), MgSO4, filtered and evaporated to give a residue. The residue was dissolved in dimethylsulfoxide and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water to give the title compound. LC-MS: calculated for C26H20ClN5O5 517.12 observed m/e: 518.19 (M+H)+ (Rt 1.17/2 min); 1H NMR δ (ppm) (CD3OD): 7.94 (s, 1H), 7.76 (ABq, 4H), 7.71 (d, 2H), 7.48 (dd, 2H), 7.39 (dd, 1H), 5.64 (m, 1H), 5.18 (t, 1H), 4.58 (d, 1H), 4.26 (dd, 2H), 4.19 (dd, 1H), 4.11 (d, 1H) and 3.95 (d, 1H).

reactant | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 0.203 mmol, 91 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
reactant | ammonium carbonate | 0.406 mmol, 39.0 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 0.224 mmol, 14.6 mg | [C-]#N.[K+]
reactant | methanol | 0.4 ml | CO | CH4O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (3R,3aS,6aR)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]spiro[3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6,5′-imidazolidine]-2′,4′-dione | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C2(C(NC(N2)=O)=O)CO1 | C26H20ClN5O5
